RC circuit excited by a pulse train 

vs 1 0 dc 0 pulse 0 1 1u 1u 1u 1m 2m
r1 1 2 1k
c1 2 0 1u

.options timeint method=trap
*.print tran file=xy.tran1.raw format=raw v(1) v(2)
.tran 1u 1 0 1u

*.print tran file=out.dat format=std v(1) v(2)
*.tran 1u 0.1 0
* gnuplot -e "plot \"out.dat\" using 2:3 with lines, \"out.dat\" using 2:4 with lines" -p

.end
